US07772235B2
2-Oxo-1,2-dihydro-pyridine-4-carboxylic acid ethyl ester
Acetyl chloride (20 mL) was added slowly to ethanol (80 mL) at room temperature. The clear solution was stirred for 5 minutes and then 2-hydroxy-4-pyridinecarboxylic acid (5.0 g, 35.9 mmol) was added as a solid. The reaction mixture was heated at reflux overnight. The reaction mixture was cooled to room temperature and the majority of the ethanol was evaporated. The residue was diluted with chloroform and water and the aqueous layer was neutralized by the careful addition of K2CO3. The organic layer was separated and the aqueous layer was extracted further with chloroform. The combined organic layer was dried over sodium sulfate and concentrated to give the title compound (5.74 g, 96%).

reactant | Acetyl chloride | 20 mL | C(C)(=O)Cl | C2H3ClO
reactant | 2-hydroxy-4-pyridinecarboxylic acid | 35.9 mmol, 5.0 g | OC1=NC=CC(=C1)C(=O)O | C6H5NO3
solvent | ethanol | 80 mL | C(C)O | C2H6O
product | 2-Oxo-1,2-dihydro-pyridine-4-carboxylic acid ethyl ester | 5.74 g, 96% | C(C)OC(=O)C1=CC(NC=C1)=O | C8H9NO3
